US05071844
(S)-5,11-Dihydro-5-[1-(2-[2-pyridyl]ethyl)-2-pyrrolidinylmethyl]dibenzo[b,e][1,4]thiazepine
A mixture of 2-vinylpyridine (250 mg) and (S)-5,11-dihydro-5-(2-pyrrolidinylmethyl)dibenzo[b,e][1,4]thiazepine (see Preparations 13 and 14) (166 mg) was heated at 120° C. for 2 hours, cooled to room temperature and purified by chromatography on silica gel using ethyl acetate/methanol (10:1) as eluant. Appropriate fractions were combined and evaporated under reduced pressure to give the title compound as a pale brown gum, (131 mg, 58%).

reactant | 2-vinylpyridine | 250 mg | C(=C)C1=NC=CC=C1 | C7H7N
reactant | (S)-5,11-dihydro-5-(2-pyrrolidinylmethyl)dibenzo[b,e][1,4]thiazepine | 166 mg | N1[C@@H](CCC1)CN1C2=C(SCC3=C1C=CC=C3)C=CC=C2 | C18H20N2S
product | (S)-5,11-Dihydro-5-[1-(2-[2-pyridyl]ethyl)-2-pyrrolidinylmethyl]dibenzo[b,e][1,4]thiazepine | 131 mg, 58% | N1=C(C=CC=C1)CCN1[C@@H](CCC1)CN1C2=C(SCC3=C1C=CC=C3)C=CC=C2 | C25H27N3S
